US07189741B2
C. 5-[4-(6-fluoro-1-thiophen-2-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-2-methoxy-benzoic acid
This compound was prepared following the procedure described in example 13 (part D) starting with 2.9 g (9.2 mmol) of 6-fluoro-3-piperidin-4-yl-1-thiophen-2-ylmethyl-1H-indole and 2.7 g (11.5 mmol) of 5-bromomethyl-2-methoxy-benzoic acid ethyl ester. After standard work-up, 1.2 g (27% of yield) of the expected acid were obtained.

reactant | 6-fluoro-3-piperidin-4-yl-1-thiophen-2-ylmethyl-1H-indole | 9.2 mmol, 2.9 g | FC1=CC=C2C(=CN(C2=C1)CC=1SC=CC1)C1CCNCC1 | C18H19FN2S
reactant | 5-bromomethyl-2-methoxy-benzoic acid ethyl ester | 11.5 mmol, 2.7 g | C(C)OC(C1=C(C=CC(=C1)CBr)OC)=O | C11H13BrO3
product | 5-[4-(6-fluoro-1-thiophen-2-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-2-methoxy-benzoic acid | FC1=CC=C2C(=CN(C2=C1)CC=1SC=CC1)C1CCN(CC1)CC=1C=CC(=C(C(=O)O)C1)OC | C27H27FN2O3S
